### PR TITLE
[Merged by Bors] - feat(CategoryTheory/KanExtension): Composing `lan` with `colim`

### PR DESCRIPTION
**Pull request by javra**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by javra** [comment]
Input on how to maybe speed up compilation time welcome :shrug:

**Comment by javra** [comment]
Also I *think* I've made the universes as general as possible, but a second pair of :eyes: wouldn't hurt

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 1]
```diff
@@ -100,6 +102,28 @@ lemma isIso_lanAdjunction_counit_app_iff (G : D ⥤ H) :
...
+noncomputable section Colim
+
+variable {C : Type u₁} {D : Type u₁} [Category.{v₁} C] [Category.{v₃} D]
+variable {H : Type (max u₁ u₂)} [Category.{max u₁ v₂} H]
+
+/-- Composing the left Kan extension of `L : C ⥤ D` with `colim` on shapes `D` is isomorphic
+to `colim` on shapes `C`. -/
+@[simps!]
+def lanCompColimIso (L : C ⥤ D) [∀ (G : C ⥤ H), L.HasLeftKanExtension G]
+    [HasColimitsOfShape C H] [HasColimitsOfShape D H] : L.lan ⋙ colim ≅ colim (C := H) :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:114]: These is a more general construction, given `F'` a left Kan extension of `F` along `L`, then any colimit cocone for `F` gives a colimit cocone for `F'`:
```
variable (F' : D ⥤ H) {L : C ⥤ D} {F : C ⥤ H} (α : F ⟶ L ⋙ F') [F'.IsLeftKanExtension α]

@[simps]
noncomputable def coconeOfIsLeftKanExtension (c : Cocone F) : Cocone F' where
  pt := c.pt
  ι := F'.descOfIsLeftKanExtension α _ c.ι

def isColimitCoconeOfIsLeftKanExtension {c : Cocone F} (hc : IsColimit c) :
    IsColimit (F'.coconeOfIsLeftKanExtension α c) where
  desc s := hc.desc (Cocone.mk _ (α ≫ whiskerLeft L s.ι))
  fac s := by
    have : F'.descOfIsLeftKanExtension α ((const D).obj c.pt) c.ι ≫ 
        (Functor.const _).map
          (hc.desc (Cocone.mk _ (α ≫ whiskerLeft L s.ι))) = s.ι :=
      F'.hom_ext_of_isLeftKanExtension α _ _ (by aesop_cat)
    exact congr_app this
  uniq s m hm := hc.hom_ext (fun j ↦ by
    have := hm (L.obj j)
    nth_rw 1 [← F'.descOfIsLeftKanExtension_fac_app α ((const D).obj c.pt)]
    dsimp at this ⊢
    rw [assoc, this, IsColimit.fac, NatTrans.comp_app, whiskerLeft_app])
```
Then, `lanCompColimIso` should be redefined as `NatIso.ofComponents` of the isomorphisms obtained by `coconePointUniqueUpToIso` using suitable colimit cocones.

Comment (javra) [reply Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:136]: Are you sure the naturality can be proven if we use `coconePointUniqueUpToIso`? I feel like we lack coherence if we don't construct the iso explicitely.

Comment (javra) [reply Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:136]: (see attempt in the commit below)

Comment (javra) [reply Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:136]: Ah, nvm, I think it is possible :grin:

File: Mathlib/CategoryTheory/Functor/Const.lean [hunk 2]
```diff
@@ -99,6 +99,13 @@ def compConstIso (F : C ⥤ D) :
     (fun X => NatIso.ofComponents (fun j => Iso.refl _) (by aesop_cat))
     (by aesop_cat)
 
+/-- The canonical isomorphism
+`const D ⋙ (whiskeringLeft J _ _).obj F ≅ const J`.-/
+@[simps!]
+def constCompWhiskeringLeftIso (F : J ⥤ D) :
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Functor/Const.lean:105]: I think there is a dual statement to this, namely

```lean
@[simps!]
def constCompWhiskeringRightIso (F : D ⥤ C) :
    const J ⋙ (whiskeringRight J D C).obj F ≅ F ⋙ const J :=
  NatIso.ofComponents fun X => NatIso.ofComponents fun Y => Iso.refl _
```

Comment (javra) [reply Mathlib/CategoryTheory/Functor/Const.lean:105]: Yes, I think I'll just add the dual, it's definitely a useful statement

Comment (javra) [reply Mathlib/CategoryTheory/Functor/Const.lean:105]: The dual is right above, as `compConstIso`

Comment (TwoFX) [reply Mathlib/CategoryTheory/Functor/Const.lean:105]: Oops, sorry about that.

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean]: Good! But note that the general construction (anything but `lanCompColimIso` and its dual) should go in the more basic file `KanExtension.Basic`.

File: Mathlib/CategoryTheory/Functor/KanExtension/Basic.lean [hunk 3]
```diff
@@ -545,6 +545,62 @@ lemma isRightKanExtension_iff_of_iso₂ {F₁' F₂' : D ⥤ H} (α₁ : L ⋙ F
...
+    have : F'.descOfIsLeftKanExtension α ((const D).obj c.pt) c.ι ≫
+        (Functor.const _).map (hc.desc (Cocone.mk _ (α ≫ whiskerLeft L s.ι))) = s.ι :=
+      F'.hom_ext_of_isLeftKanExtension α _ _ (by aesop_cat)
+    exact congr_app this
+  uniq s m hm := hc.hom_ext (fun j ↦ by
+    have := hm (L.obj j)
+    nth_rw 1 [← F'.descOfIsLeftKanExtension_fac_app α ((const D).obj c.pt)]
+    dsimp at this ⊢
+    rw [assoc, this, IsColimit.fac, NatTrans.comp_app, whiskerLeft_app])
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Basic.lean:573]: It would be more convenient to define here the isomorphism on colimits (and similarly for limits):
```suggestion

section

variable [HasColimit F] [HasColimit F']

noncomputable def colimitIsoOfIsLeftKanExtension : colimit F' ≅ colimit F :=
  IsColimit.coconePointUniqueUpToIso (colimit.isColimit F')
    (F'.isColimitCoconeOfIsLeftKanExtension α (colimit.isColimit F))

@[reassoc (attr := simp)]
lemma ι_colimitIsoOfIsLeftKanExtension_hom (i : C) :
    α.app i ≫ colimit.ι F' (L.obj i) ≫ (F'.colimitIsoOfIsLeftKanExtension α).hom =
      colimit.ι F i := by
  simp [colimitIsoOfIsLeftKanExtension]


@[reassoc (attr := simp)]
lemma ι_colimitIsoOfIsLeftKanExtension_inv (i : C) :
    colimit.ι F i ≫ (F'.colimitIsoOfIsLeftKanExtension α).inv =
      α.app i ≫ colimit.ι F' (L.obj i) := by
  rw [← cancel_mono (F'.colimitIsoOfIsLeftKanExtension α).hom, assoc, assoc,
    Iso.inv_hom_id, ι_colimitIsoOfIsLeftKanExtension_hom, comp_id]

end

```
Then, the construction of the natural isomorphism involving `lan` becomes easier (see other comment).

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 4]
```diff
@@ -100,6 +100,26 @@ lemma isIso_lanAdjunction_counit_app_iff (G : D ⥤ H) :
...
+      simp only [colim_obj, colim_map, ← Iso.inv_comp_eq, ← assoc, ← Iso.eq_comp_inv]
+      ext
+      rw [ι_colimMap_assoc]
+      simp only [comp_map, colim, colimMap, IsColimit.map, lan]
+      rw [IsColimit.coconePointUniqueUpToIso_inv_desc]
+      simp only [isColimitCoconeOfIsLeftKanExtension_desc, Cocones.precompose_obj_pt,
+        colimit.cocone_x, Cocones.precompose_obj_ι, whiskerLeft_comp, colimit.isColimit_desc,
+        colimit.ι_desc, NatTrans.comp_app, comp_obj, const_obj_obj, whiskerLeft_app,
+        colimit.cocone_ι, ← assoc, Iso.eq_comp_inv]
+      simp [colimit.ι, colimit.cocone, lan])
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:121]:
```suggestion
noncomputable def lanCompColimIso (L : C ⥤ D) [∀ (G : C ⥤ H), L.HasLeftKanExtension G]
    [HasColimitsOfShape C H] [HasColimitsOfShape D H] : L.lan ⋙ colim ≅ colim (C := H) :=
noncomputable def lanCompColimIso (L : C ⥤ D) [∀ (G : C ⥤ H), L.HasLeftKanExtension G]
    [HasColimitsOfShape C H] [HasColimitsOfShape D H] : L.lan ⋙ colim ≅ colim (C := H) :=
  Iso.symm (NatIso.ofComponents
    (fun G ↦ (colimitIsoOfIsLeftKanExtension _ (L.lanUnit.app G)).symm)
    (fun {G G'} f ↦ colimit.hom_ext (fun i ↦ by
    dsimp
    rw [ι_colimMap_assoc, ι_colimitIsoOfIsLeftKanExtension_inv,
      ι_colimitIsoOfIsLeftKanExtension_inv_assoc, ι_colimMap, ← assoc, ← assoc]
    congr 1
    exact congr_app (L.lanUnit.naturality f) i)))
```
Indeed, the naturality condition can be checked more easily for the inverse isomorphism.

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 5]
```diff
@@ -207,6 +221,20 @@ lemma isIso_ranAdjunction_unit_app_iff (G : D ⥤ H) :
     IsIso ((L.ranAdjunction H).unit.app G) ↔ G.IsRightKanExtension (𝟙 (L ⋙ G)) :=
   (isRightKanExtension_iff_isIso _ (L.ranCounit.app (L ⋙ G)) _ (by simp)).symm
 
+/-- Composing the right Kan extension of `L : C ⥤ D` with `lim` on shapes `D` is isomorphic
+to `lim` on shapes `C`. -/
+@[simps!]
+noncomputable def ranCompLimIso (L : C ⥤ D) [∀ (G : C ⥤ H), L.HasRightKanExtension G]
+    [HasLimitsOfShape C H] [HasLimitsOfShape D H] : L.ran ⋙ lim ≅ lim (C := H) :=
+  NatIso.ofComponents
+    (fun G ↦ (limitIsoOfIsRightKanExtension _ (L.ranCounit.app G)))
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:230]:
```suggestion
    (fun G ↦ limitIsoOfIsRightKanExtension _ (L.ranCounit.app G))
```

File: Mathlib/CategoryTheory/Functor/KanExtension/Basic.lean [hunk 6]
```diff
@@ -545,6 +545,99 @@ lemma isRightKanExtension_iff_of_iso₂ {F₁' F₂' : D ⥤ H} (α₁ : L ⋙ F
...
+lemma ι_colimitIsoOfIsLeftKanExtension_hom (i : C) :
+    α.app i ≫ colimit.ι F' (L.obj i) ≫ (F'.colimitIsoOfIsLeftKanExtension α).hom =
+      colimit.ι F i := by
+  simp [colimitIsoOfIsLeftKanExtension]
+
+@[reassoc (attr := simp)]
+lemma ι_colimitIsoOfIsLeftKanExtension_inv (i : C) :
+    colimit.ι F i ≫ (F'.colimitIsoOfIsLeftKanExtension α).inv =
+    α.app i ≫ colimit.ι F' (L.obj i) := by
+  rw [@Iso.comp_inv_eq, assoc, ι_colimitIsoOfIsLeftKanExtension_hom]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Basic.lean:591]:
```suggestion
  rw [Iso.comp_inv_eq, assoc, ι_colimitIsoOfIsLeftKanExtension_hom]
```

File: Mathlib/CategoryTheory/Functor/KanExtension/Basic.lean [hunk 7]
```diff
@@ -545,6 +545,99 @@ lemma isRightKanExtension_iff_of_iso₂ {F₁' F₂' : D ⥤ H} (α₁ : L ⋙ F
...
+  uniq s m hm := hc.hom_ext (fun j ↦ by
+    have := hm (L.obj j)
+    nth_rw 1 [← F'.liftOfIsRightKanExtension_fac_app α ((const D).obj c.pt)]
+    dsimp at this ⊢
+    rw [← assoc, this, IsLimit.fac, NatTrans.comp_app, whiskerLeft_app])
+
+
+variable [HasLimit F] [HasLimit F']
+
+/-- The limit over any right Kan extension of `F` is isomorphic to `F`. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Basic.lean:624]: We should insert "to the limit of" somewhere. Could you also make all the docstrings of the declarations slightly more self contained? Like, "if `F'` is a right/left Kan extension of a functor `F` along a functor `L`, then...".

File: Mathlib/CategoryTheory/Functor/KanExtension/Basic.lean [hunk 8]
```diff
@@ -545,6 +545,107 @@ lemma isRightKanExtension_iff_of_iso₂ {F₁' F₂' : D ⥤ H} (α₁ : L ⋙ F
...
+        F'.liftOfIsRightKanExtension α ((const D).obj c.pt) c.π = s.π :=
+      F'.hom_ext_of_isRightKanExtension α _ _ (by aesop_cat)
+    exact congr_app this
+  uniq s m hm := hc.hom_ext (fun j ↦ by
+    have := hm (L.obj j)
+    nth_rw 1 [← F'.liftOfIsRightKanExtension_fac_app α ((const D).obj c.pt)]
+    dsimp at this ⊢
+    rw [← assoc, this, IsLimit.fac, NatTrans.comp_app, whiskerLeft_app])
+
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/KanExtension/Basic.lean:628]:
```suggestion
```

**Comment by joelriou** [comment]
Thanks!

bors merge
